US08871756B2
N-[6-(Pyridin-2-yloxy)-2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethane-1,2-diamine
The mixture of 2-[4-chloro-6-(pyridin-2-yloxy)quinolin-2-yl]-2,3,4,5-tetrahydro-1H-2-benzazepine (40 mg, 0.1 mmol) and ethane-1,2-diamine (2 mL) was heated with stirring in a 5 mL microwave process vial for 3 hours at 180° C. under microwave irradiation. The solvent was removed under reduced pressure and the residue was purified by preparative HPLC to give 7 mg of product as a yellow powder. MS obsd. (ESI+) [(M+H)+] 426. 1H NMR (400 MHz, CD3OD) δ ppm 8.12 (d, J=3.2 Hz, 1 H), 7.82-7.78 (m, 1 H), 7.66 (d, J=2.8 Hz, 1 H), 7.61 (d, J=8.8 Hz, 1 H), 7.48 (d, J=6.8 Hz, 1 H), 7.23 (dd, J=5.2, 2.4 Hz, 1 H), 7.16-7.08 (m, 4 H), 6.90 (d, J=8.4 Hz, 1 H), 6.04 (s, 1 H), 4.83 (s, 2 H), 4.16 (brs, 2 H), 3.41 (t, J=6.2 Hz, 2 H), 3.05 (t, J=4.8 Hz, 2 H), 2.94 (t, J=6.2 Hz, 2 H), 1.96-1.91 (m, 2 H).

reactant | 2-[4-chloro-6-(pyridin-2-yloxy)quinolin-2-yl]-2,3,4,5-tetrahydro-1H-2-benzazepine | 0.1 mmol, 40 mg | ClC1=CC(=NC2=CC=C(C=C12)OC1=NC=CC=C1)N1CC2=C(CCC1)C=CC=C2 | C24H20ClN3O
reactant | ethane-1,2-diamine | 2 mL | C(CN)N | C2H8N2
product | N-[6-(Pyridin-2-yloxy)-2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethane-1,2-diamine | 7 mg | N1=C(C=CC=C1)OC=1C=C2C(=CC(=NC2=CC1)N1CC2=C(CCC1)C=CC=C2)NCCN | C26H27N5O
